US06727264B1
N-[3-(1-{5-[2-FLUORO-5-(TRIFLUOROMETHYL)PHENOXY]-5-[4-(TRIFLUOROMETHYL)PHENYL]PENTYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure A and Scheme AN using 2-fluoro-5-(trifluoromethyl)phenol and N-[3-(1-{5-hydroxy-5-[4-(trifluoromethyl)phenyl]pentyl}-4-piperidinyl)phenyl]-2-methylpropanamide: ESMS m/e: 639.2 (M+H)+.

reactant | 2-fluoro-5-(trifluoromethyl)phenol | FC1=C(C=C(C=C1)C(F)(F)F)O | C7H4F4O
reactant | N-[3-(1-{5-hydroxy-5-[4-(trifluoromethyl)phenyl]pentyl}-4-piperidinyl)phenyl]-2-methylpropanamide | OC(CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=C(C=C1)C(F)(F)F | C27H35F3N2O2
product | N-[3-(1-{5-[2-FLUORO-5-(TRIFLUOROMETHYL)PHENOXY]-5-[4-(TRIFLUOROMETHYL)PHENYL]PENTYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | FC1=C(OC(CCCCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C2=CC=C(C=C2)C(F)(F)F)C=C(C=C1)C(F)(F)F | C34H37F7N2O2
